US06015812
3-(N-Boc)amino-3-(3,4-dichlorophenyl)propionic acid
10 g of 3-amino-3-(3,4-dichlorophenyl)propionic acid are dissolved in 100 ml of water and 9 ml of triethylamine are added, followed by gradual addition of 9.3 g of (Boc)2O in 100 ml of dioxane. After stirring overnight at RT, the medium is concentrated and the residue is then taken up in water, adjusting the pH to 9 by addition of 1N sodium hydroxide. This mixture is washed twice with ether, the aqueous phase is taken up and acidified to pH=3 by addition of 1N HCl and is extracted with EtOAc and concentrated in order to obtain 3.9 g of the expected compound m.p.=128° C.

reactant | 3-amino-3-(3,4-dichlorophenyl)propionic acid | 10 g | NC(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl | C9H9Cl2NO2
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | 9.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 100 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(N-Boc)amino-3-(3,4-dichlorophenyl)propionic acid | 3.9 g | C(=O)(OC(C)(C)C)NC(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H17Cl2NO4
